US06313311B1
4-(5-tert-Butyl-6-methoxyindan-1-ylmethyl)-1H-imidazole
Sulfuric acid (0.5 ml) is added into the mixture of 4-(6-methoxyindan-1-ylmethyl)-1H-imidazole hydrochloride (50 mg) and tert-butanol (2 ml). The mixture is stirred at 35-40° C. for 10 hours. The reaction mixture is then poured into water and is made alkaline with sodium hydroxide. The product is extracted into methylene chloride which is washed with water, dried with sodium sulfate and evaporated to dryness. The residue consisting of crude product is converted to its hydrochloride salt in ethyl acetate. The yield is 23 mg, m.p. 174-184° C.

reactant | Sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-(6-methoxyindan-1-ylmethyl)-1H-imidazole hydrochloride | 50 mg | Cl.COC1=CC=C2CCC(C2=C1)CC=1N=CNC1
reactant | tert-butanol | 2 ml | C(C)(C)(C)O | C4H10O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(5-tert-Butyl-6-methoxyindan-1-ylmethyl)-1H-imidazole | C(C)(C)(C)C=1C=C2CCC(C2=CC1OC)CC=1N=CNC1 | C18H24N2O
